US04942163
Part A. A 100-mL, three-necked, round-bottomed flask equipped with an addition funnel, reflux condenser, and a nitrogen sweep to an HCl gas scrubber was charged with 5-chloro-2-methylbenzoic acid (10.00 g, 58.62 mmol). The apparatus was cooled in an ice bath, and thionyl chloride (40 mL, 550 mmol) was added in one portion. The ice bath was removed and the reaction mixture was warmed to about 50° for about 45 minutes in order to completely dissolve the 5-chloro-2-methylbenzoic acid. The reaction mixture was allowed to gradually cool with stirring to room temperature overnight. The excess thionyl chloride and the HCl and SO2 reaction side-products were removed by vacuum distillation. The residue was distilled under vacuum to afford 5-chloro-2-methylbenzoyl chloride as an oil: bp 65° (0.2 torr). This material was transferred immediately into an addition funnel and added dropwise with stirring to a commerical 40% dimethylamine solution (50 mL, 445 mmol) in water (150 mL). After complete addition, the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was extracted with ether, washed with water, dried, and concentrated. The resulting oil was distilled under vacuum to afford 5-chloro-N,N-2-trimethylbenzamide (10.40 g, 52.65 mmol, 90% yield) as an oil: bp 95°-101° (0.15 torr); IR(neat) 1650 cm-1 ; 1H NMR(CDCl3) δ 7.07-7.53(m,3H), 3.12(s,3H), 2.84(s,3H). Anal. Calcd for C9H12ClNO: C,60.76; N,6.12; Cl,17.94; N,7.12. Found: C,60.57; N,6.06; Cl,17.84; N,6.86.

reactant | HCl | Cl | ClH
reactant | 5-chloro-2-methylbenzoic acid | 58.62 mmol, 10.00 g | ClC=1C=CC(=C(C(=O)O)C1)C | C8H7ClO2
reactant | thionyl chloride | 550 mmol, 40 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-2-methylbenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)C | C8H6Cl2O
